US07417047B2
Step c) 1-(5-Butyl-thiophen-2-yl)-2-phenyl-ethane-1,2-dione
Into a flask containing THF (60 mL) was added copper (II) bromide (5.7 g, 40 mmol) followed by lithium bromide (6.8 g, 80 mmol). The reaction was cooled to 0° C. and a solution of 4-methyl-phenylmagnesium bromide (1N) in ether (48 mmol) was added dropwise. The reaction was stirred 10 min and a solution containing (5-butyl-thiophen-2-yl)-oxo-acetyl chloride was added dropwise over 20 min at 0° C. The reaction was poured into HCl 1N (aqueous) and extracted with ether. The organic layer was separated and washed with NaOH 2.5N (aqueous), then brine and dried over MgSO4, filtered and stripped. MS m/e 273 (M)−; 1HNMR (DMSO-d6, 300 MHz) δ 0.9 (t, 3H), 1.3 (m, 2H), 1.6 (m, 2H), 2.8 (t, 2H), 7.0 (s, 1H), 7.6 (t, 2H), 7.7 (s, 1H), 7.8 (m, 1H), 7.9 (d, 2H).

reactant | lithium bromide | 80 mmol, 6.8 g | [Br-].[Li+]
reactant | 4-methyl-phenylmagnesium bromide | 1N | CC1=CC=C(C=C1)[Mg]Br
reactant | ether | 48 mmol | CCOCC | C4H10O
reactant | (5-butyl-thiophen-2-yl)-oxo-acetyl chloride | C(CCC)C1=CC=C(S1)C(C(=O)Cl)=O | C10H11ClO2S
reactant | HCl | 1N | Cl | ClH
catalyst | copper (II) bromide | 40 mmol, 5.7 g | [Cu](Br)Br
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(5-Butyl-thiophen-2-yl)-2-phenyl-ethane-1,2-dione | C(CCC)C1=CC=C(S1)C(C(=O)C1=CC=CC=C1)=O | C16H16O2S
